US07652049B2
(4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-5-[2-iodo-3-nitro-5-(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one
(4R,5R)-3-[3,5-Bis(trifluoromethyl)benzyl]-5-[2-iodo-5-(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one was added in portions to 2 mL of fuming nitric acid at 0° C. The reaction mixture was stirred overnight at r.t., and then heated to 75° C. for 4 h. The reaction mixture was cooled and then added dropwise to a rapidly stirred mixture of 10 mL of water and 10 mL of EtOAc. The phases were separated and the organic phase was washed with 10 mL each of saturated NaHCO3 and brine, dried (Na2SO4), and concentrated. The residue was purified by flash chromatography on a Biotage Horizon, 25S column, eluting with 1 CV of 5% EtOAc in hexanes followed by a linear gradient of 5→100% EtOAc in hexanes over 10 CV, to provide the title compound. Mass spectrum (ESI) 643 (M+1).

reactant | (4R,5R)-3-[3,5-Bis(trifluoromethyl)benzyl]-5-[2-iodo-5-(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(CN2C(O[C@@H]([C@H]2C)C2=C(C=CC(=C2)C(F)(F)F)I)=O)C=C(C1)C(F)(F)F)(F)F | C20H13F9INO2
reactant | nitric acid | 2 mL | [N+](=O)(O)[O-] | HNO3
reactant | water | 10 mL | O | H2O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | (4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-5-[2-iodo-3-nitro-5-(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(CN2C(O[C@@H]([C@H]2C)C2=C(C(=CC(=C2)C(F)(F)F)[N+](=O)[O-])I)=O)C=C(C1)C(F)(F)F)(F)F | C20H12F9IN2O4
